US08022205B2
3-[7-(2-Methyl-pyridin-4-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-phenol (A-16)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and 4-amino-1-methylpyridine, 4-(3-methoxy-phenyl)-7-(2-methyl-pyridin-4-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine was obtained, and subsequently, further in the same manner as Example 1-A-09, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | 4-amino-1-methylpyridine | NC1=CCN(C=C1)C | C6H10N2
reactant | 4-(3-methoxy-phenyl)-7-(2-methyl-pyridin-4-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC(=NC=C2)C | C23H25N5O2
product | 3-[7-(2-Methyl-pyridin-4-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-phenol | CC1=NC=CC(=C1)N1CCC2=C1N=C(N=C2C=2C=C(C=CC2)O)N2CCOCC2 | C22H23N5O2
